US04176131
Preparation of (6R,7R) 3-Methyl-7-phenoxyacetamidoceph-3-em-4-carboxylic Acid Diphenylmethyl Ester
(1S,3S,5R,6R) 2,2-Dimethyl-6-phenoxyacetamidopenam-3-carboxylic acid-1-oxide diphenylmethyl ester (25.00 gms, 45.41 mmoles) was dissolved in sieve-dried, peroxide-free dioxane (250 mls) at 25° C. with good agitation. To this solution, in order, were added pyridine (10.99 mls, 10.78 gms, 136.22 mmoles), acetyl bromide (0.67 mls, 1.12 gms, 9.08 mmoles) and dimethylsilyl diisocyanate (16.14 gms, 113.51 mmoles), and the slurry was heated to reflux (ca. 100° C.) for 4 hours. The dioxane slurry was then cooled to 25° C., filtered, and concentrated in vacuo at 50° C. to a heavy oil. The oil was taken up in methylene chloride (400 mls), stirred for 15 minutes at 25° C., filtered, and concentrated in vacuo to dryness. The residue was dissolved in hot 1-butanol (500 mls, ca. 90°-95° C.) and allowed to cool to 25° C. The slurry was cooled to 0°-5° C. for 16 hours, filtered, washed with cold butanol (0° -5° C., 100 mls), then with Skellysolve B (200 mls), and oven-dried at 45° C. to constant weight. Yield: 20.2 gms, 86.4% of snow-white crystalline title compound. The NMR spectrum was clean and consistent for the desired structure, as follows:

reactant | (1S,3S,5R,6R) 2,2-Dimethyl-6-phenoxyacetamidopenam-3-carboxylic acid-1-oxide diphenylmethyl ester | 45.41 mmoles, 25.00 gms | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C([S@@]([C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)=O)(C)C | C29H28N2O6S
reactant | pyridine | 136.22 mmoles, 10.99 mls, 10.78 gms | N1=CC=CC=C1 | C5H5N
reactant | acetyl bromide | 9.08 mmoles, 0.67 mls, 1.12 gms | C(C)(=O)Br | C2H3BrO
reactant | dioxane | O1CCOCC1 | C4H8O2
product | (6R,7R) 3-Methyl-7-phenoxyacetamidoceph-3-em-4-carboxylic Acid Diphenylmethyl Ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)C | C29H26N2O5S
